US07956070B2
Step 1: 3-tert-Butyl 1-methyl 4-chloroisophthalate
tert-Butyl 5-bromo-2-chlorobenzoate (1.9 g) (WO2003095430) was dissolved in methanol (18 ml) with N,N-diisopropylethylamine (2 mL) and dichlorobis(triphenylphosphine)-palladium(II) (0.134 g). The mixture was carbonylated at 85° C. for 12 h. The cooled solution was evaporated and purified by flash chromatography, eluting with 5:95 ethyl acetate/isohexane, to yield the subtitle compound as a colourless oil (0.67 g).

reactant | tert-Butyl 5-bromo-2-chlorobenzoate | 1.9 g | BrC=1C=CC(=C(C(=O)OC(C)(C)C)C1)Cl | C11H12BrClO2
solvent | methanol | 18 ml | CO | CH4O
solvent | N,N-diisopropylethylamine | 2 mL | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | dichlorobis(triphenylphosphine)-palladium(II) | 0.134 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-tert-Butyl 1-methyl 4-chloroisophthalate | 0.67 g | ClC1=C(C=C(C(=O)OC)C=C1)C(=O)OC(C)(C)C | C13H15ClO4
